************************************************************************
* auCdl Netlist:
* 
* Library Name:  MDT_Project
* Top Cell Name: SA_MUX16
* View Name:     schematic
* Netlisted on:  Apr  9 21:37:33 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MDT_Project
* Cell Name:    SA_MUX16
* View Name:    schematic
************************************************************************

.SUBCKT SA_MUX16 BL BLB GND Pch Q QB SAen SAf SAt VDD
*.PININFO BL:I BLB:I Pch:I SAen:I VDD:I Q:O QB:O SAf:O SAt:O GND:B
MM17 QB SAf VDD VDD psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM16 QB Q VDD VDD psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM11 Q QB VDD VDD psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM10 Q SAt VDD VDD psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM6 BLB SAen SAf VDD psvtlp w=1.8 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM5 BL SAen SAt VDD psvtlp w=1.8 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM4 SAf SAt VDD VDD psvtlp w=1.6 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM3 SAt SAf VDD VDD psvtlp w=1.6 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM2 SAt Pch SAf VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM1 SAf Pch VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM0 SAt Pch VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM19 net2 SAf GND GND nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM18 QB Q net2 GND nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM15 net1 QB GND GND nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM14 Q SAt net1 GND nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM9 net4 SAen GND GND nsvtlp w=2.8 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM8 SAf SAt net4 GND nsvtlp w=2.4 l=0.06 nfing=2 sense=0 ngcon=1 m=2 
+ accurateFlow=0
MM7 SAt SAf net4 GND nsvtlp w=2.4 l=0.06 nfing=2 sense=0 ngcon=1 m=2 
+ accurateFlow=0
.ENDS

